data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_151687_2,[C:1]1(/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:7]/[N:5]([H:9])[H:10])([H:8])[C:2]([H:11])([H:12])[O:6]1>>[C:1]1([H:8])=[C:4]([C:3]([H:13])([H:14])[H:15])[N:7]([N:5]([H:9])[H:10])[O:6][C:2]1([H:11])[H:12],52.348559999987145
MR_577067_0,[C:1](=[C:4]([C:2](/[C:3](=[N:6]\[H:8])[H:12])([O:5][H:7])[H:9])[H:13])([H:10])[H:11]>>[C:1](/[C:3](=[N:6]\[H:8])[H:12])(/[C:4](=[C:2](\[O:5][H:7])[H:9])[H:13])([H:10])[H:11],70.30447249998844
MR_193074_2,[C:1]([C:2]([H:12])([H:13])[H:14])([O:7][C:4]([C:5]([C:3]([H:15])([H:16])[H:17])([O:9][H:10])[H:11])=[C:6]([H:18])[H:19])=[O:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:7][C:4]([C:5]([C:3]([H:15])([H:16])[H:17])=[O:9])=[C:6]([H:18])[H:19])([O:8][H:10])[H:11],49.583794999976334
MR_332971_0,[C:1]([C:3]([O:8][H:10])=[O:9])([C:4]([C:5]([C:2]([H:17])([H:18])[H:19])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:3](=[O:9])[C@:4]1([C@:5]([C:2]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[O:8][H:10])[N:6]([H:11])[H:12],71.04241250001579
MR_573021_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])/[C:5]([O:6][H:9])=[N:8]/[C:3]([H:16])([H:17])[H:18])([O:7][H:10])([H:11])[H:12]>>[C:1]([O:7][H:10])([N:8]([C:3]([H:16])([H:17])[H:18])/[C:5](=[N:4]\[C:2]([H:13])([H:14])[H:15])[O:6][H:9])([H:11])[H:12],67.19019000000401
MR_113947_0,[C:1]([C:3]([H:12])([H:13])[H:17])([C:4]([H:14])([H:15])[H:16])([O:5][O:6][C:2]([H:9])([H:10])[H:11])[O:7][H:8]>>[C:1]([C:3]([H:12])([H:13])[H:17])([C:4]([H:14])([H:15])[H:16])([O:5][O:7][H:8])[O:6][C:2]([H:9])([H:10])[H:11],68.55060999999353
MR_36858_0,[C:1](/[N:7]=[C:5](/[N:6]=[C:4]([C:2]([H:12])([H:13])[H:16])[C:3]([H:14])([H:15])[H:17])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:7]1[C:4]([C:2]([H:12])([H:13])[H:16])([C:3]([H:14])([H:15])[H:17])[N:6]=[C:5]1[H:8])([H:9])([H:10])[H:11],34.843192500025424
MR_413860_0,[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3]([N:4]([H:10])[H:11])=[C:7](\[N:5]([H:12])[H:13])[H:15])([C:6](=[O:8])[H:14])[H:9]>>[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:3](/[N:4]([H:10])[H:11])[C:7]([N:5]([H:12])[H:13])([C:6](=[O:8])[H:14])[H:15])[H:9],49.06108749997628
MR_469841_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:5](=[O:7])[H:11])=[O:6])([N:4]([H:9])[H:10])[H:8]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:3](\[N:4]([H:9])[H:10])[O:6][C:5](=[O:7])[H:11])[H:8],70.73744749996536
MR_349452_0,[C:1](=[N:8][C:6]1([C:3]([H:15])([H:16])[H:17])[C:5]([C:2]([C:4]([H:18])([H:19])[H:20])([H:13])[H:14])([O:7][H:10])[O:9]1)([H:11])[H:12]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([H:13])[H:14])(/[N:8]=[C:6](/[C:3]([H:15])([H:16])[H:17])[C:5]([O:7][H:10])=[O:9])([H:11])[H:12],49.77267249999883
MR_342125_0,[C:1]([N:3]([N:4]([H:7])[H:8])/[N:5]=[N:6]/[C:2]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[N:5]/[N:6]([C:2]([H:12])([H:13])[H:14])[N:4]([H:7])[H:8])([H:9])([H:10])[H:11],61.74600000001661
MR_37658_0,[C:1]1([N:6]([H:9])[H:10])([H:11])[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([H:12])[N:7]1[H:8]>>[C:1](/[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])=[N:7]/[H:8])([N:6]([H:9])[H:10])([H:11])[H:12],49.782712499973485
MR_291558_0,[C:1]([N:4]([C:2]([H:15])([H:16])[H:17])[O:8][H:9])(/[C:5]([C:3]([H:18])([H:19])[H:20])=[C:7](\[N:6]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C@@:5]1([C:3]([H:18])([H:19])[H:20])[C@:7]([N:6]([H:10])[H:11])([O:8][H:9])[H:14],70.55359000000152
MR_693800_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[O:6][O:5][O:7][H:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([H:9])[H:10])([O:5][O:7][H:8])[O:6][N:4]([H:11])[H:12],53.643092500036005
MR_197495_0,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([O:8][H:11])[O:9][H:12])([C:4]([H:16])([H:17])[H:18])([O:6][C:3]([H:13])([H:14])[H:15])[O:7][H:10]>>[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([O:6][C:3]([H:13])([H:14])[H:15])[O:8][H:11])([C:4]([H:16])([H:17])[H:18])([O:7][H:10])[O:9][H:12],72.45554249997923
MR_582796_1,[C:1]1([O:3][H:6])([H:8])[C:2]([O:4][H:7])([H:10])[N:5]1[H:9]>>[C:1](/[C:2](=[N:5]\[H:9])[H:10])([O:3][H:6])([O:4][H:7])[H:8],50.17615499997888
MR_673120_0,[C:1]([O:3][N:5][N:6][N:2]([H:8])[H:9])([O:4][H:7])([H:10])[H:11]>>[C:1]([O:4][H:7])([N:6]([N:2]([H:8])[H:9])[N:5][O:3])([H:10])[H:11],46.26243749997968
MR_214168_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])(/[C:5](=[C:4](\[O:7][H:9])[H:12])[H:13])([O:6][H:8])[H:11]>>[C:1](=[C:5](/[C:4]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])([O:7][H:9])[H:12])[H:13])(\[O:6][H:8])[H:11],58.67313249996329
MR_237670_1,[C:1](/[C:4]([O:7][H:9])=[N:8]/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([O:7][H:9])[C:6]([C:3]([H:17])([H:18])[H:19])([H:10])[C:5]([C:2]([H:14])([H:15])[H:16])=[N:8]1)([H:11])([H:12])[H:13],54.18023250003529
